2143-03-01 09:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, shock, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 y/o woman with hx of breast cancer and COPD on 3L O2 presents with
   fever to 101, several days dyspnea, intermittent abdominal pain,
   nausea, and vomiting admitted overnight to ICU.  CXR showed RLL
   opacity; transferred to [**Hospital1 54**] as suspected PNA/COPD exacerbation.
   Further investigation revealed probable cholangitis.
   24 Hour Events:
   Admitted to ICU
   Ultrasound showed stones
   Felt to have cholangitis
   Intubated this morning
   Hypotense to SBP 50s after intubation --> peripheral neosynephrine
   Art line placed this morning
   Left subclavian attempt --> easy vein access but very difficult
   wire/catheter advancement --> abandoned.  Felt possibly due to prior
   mastectomy/other changes.
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubatd
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-3-1**] 05:15 AM
   Piperacillin - [**2143-3-1**] 06:49 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   H2B, SQI, Solumedrol 80 q 24, MDIs, arimedex, zosyn, levoflox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-1**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (95 - 100) bpm
   BP: 69/41(66) {69/41(53) - 119/61(68)} mmHg
   RR: 26 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             2,310 mL
   PO:
             TF:
   IVF:
   2,310 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     70 mL
   Urine:
   70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 570 (570 - 570) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 32 cmH2O
   SpO2: 100%
   ABG: 7.43/51/60/28/7
   Ve: 8 L/min
   PaO2 / FiO2: 60
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, slight scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.5 g/dL
   367 K/uL
   291 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.0 mEq/L
   21 mg/dL
   95 mEq/L
   136 mEq/L
   36.7 %
   29.1 K/uL
        [image002.jpg]
                             [**2143-3-1**]  05:16 AM
                             [**2143-3-1**]  05:45 AM
                             [**2143-3-1**]  06:12 AM
   WBC
   29.1
   Hct
   36.7
   Plt
   367
   Cr
   0.9
   TCO2
   35
   35
   Glucose
   291
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB / Troponin-T:202//,
   ALT / AST:603/513, Alk Phos / T Bili:424/6.1, Differential-Neuts:84.0
   %, Band:14.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.1
   mmol/L, LDH:467 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: RUQ U/S: with ductal dilatation (9mm) and GB stones
   ECG: NSR @ 97; slight biphasic T waves anteriorly
   Assessment and Plan
   74 y/o woman with respiratory failure and shock, most likely from
   cholangitis.
 CHOLANGITIS
   -- zosyn/quinolone.  Add additional enterococcal coverage.
   -- ERCP ASAP
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -- I doubt that this is the primary process and suspect that there is
   atelectasis and effusion related to her biliary process.
   -- Check cultures.
   -- Antibiotics as above
   -- Influenza DFA already ordered --> droplet precaustions until
   negative
 SEPTIC SHOCK
   -- antibiotics as above
   -- place femoral line, given extreme difficulty advancing wire from
   left subclavian position. If still needs CVL in afternoon, consider
   resiting.
   -- EGDT as feasible with femoral line.
   -- no APC since she will soon get ERCP and possible sphincterotomy
   -- steroids only if pressor-resistant shock
 RESPIRATORY FAILURE
   -- no more than 8cc/kg PBW/breath.  If develops ARDS --> ARDSnet
   ventilation
   -- keep intubated until ERCP done and hemodynamically stable
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -- antibiotics, bronchodilators
 CANCER (MALIGNANT NEOPLASM), BREAST
   -- continue arimedex
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2143-3-1**] 04:24 AM
   18 Gauge - [**2143-3-1**] 08:00 AM
   Arterial Line - [**2143-3-1**] 08:52 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: discussed by team with patient
s daughter
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 75 min
   Patient is critically ill

2143-03-02 07:41:00 Physician Resident Progress Note
Chief Complaint: 78F with COPD presented with RUQ pain, fever, SOB
   found to have cholangitis
   24 Hour Events:
   Femoral line placed in AM after unsuccessful attempt to place left
   subclavian prior to ERCP. Right subclavian placed in evening.
   Underwent ERCP - single stone seen in distal CBD, plastic stent placed
   Post-procedure became hypotensive without durable response to IVF
   boluses so levophed started
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-3-1**] 08:00 PM
   Vancomycin - [**2143-3-1**] 10:00 PM
   Piperacillin - [**2143-3-2**] 07:25 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2143-3-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 79 (65 - 109) bpm
   BP: 118/54(78) {84/40(58) - 150/68(94)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 7 (5 - 303)mmHg
   Total In:
                                                                  7,903 mL
                                                                    473 mL
   PO:
   TF:
   IVF:
                                                                  7,903 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                    537 mL
                                                                    314 mL
   Urine:
                                                                    537 mL
                                                                    314 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,366 mL
                                                                    159 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.38/42/85.[**Numeric Identifier 128**]/28/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present. No [**Doctor Last Name 1112**]
s sign
   Extremities: No edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   341 K/uL
   10.9 g/dL
   165 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   137 mEq/L
   32.8 %
   36.7 K/uL
        [image002.jpg]
   ALT 455, AST 279, ALKP 324, Tbil 3.7
   CXR L CP angle not seen, slight increase opacity R base
   Micro
   [**3-1**] blood cx NGTD
   [**3-1**] sputum >25 polys no organisms on gram, cx pneding
   [**3-1**] respiratory viral screen ag negative cx pending
   [**3-1**] urine cx NGTD
   [**3-1**] urine legionella ag negative
                             [**2143-3-1**]  05:16 AM
                             [**2143-3-1**]  05:45 AM
                             [**2143-3-1**]  06:12 AM
                             [**2143-3-1**]  09:27 AM
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
   WBC
   29.1
   36.7
   Hct
   36.7
   32.8
   Plt
   367
   341
   Cr
   0.9
   0.6
   0.7
   TropT
   <0.01
   TCO2
   35
   35
   33
   35
   32
   26
   Glucose
   291
   156
   165
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:202/6/<0.01, ALT / AST:455/279, Alk Phos / T Bili:324/3.7,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.9 %, Mono:2.3 %, Eos:0.0
   %, Lactic Acid:2.1 mmol/L, LDH:467 IU/L, Ca++:7.6 mg/dL, Mg++:2.4
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Hemodynamically stable, weaned off pressors this morning.  Goal MAP>65.
   Urine output borderline yesterday, given CVP of 7 will rebolus with IVF
   and follow urine output. Will also check urinalysis to assess for
   evidence of casts; in setting of hypotension yesterday could have ATN.
   Will also check urine electrolytes and urine eosinophils.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Good RSBI this morning, did well on SBT, now extubated post rounds. Do
   not think she has a pneumonia. Shortness of breath may have been due to
   abdominal infection, breathing off acidosis. Patient on 3L O2 baseline
   at home.
 CHOLANGITIS
   S/p ERCP yesterday with plastic stent placed. Abdomen benign today with
   improved bilirubins and LFTs. Will need GI followup for biliary stent
   removal. Continue to trend LFTs. Cultures NGTD, afebrile. Check
   differential on CBC. Can discontinue ciprofloxacin today. Continue
   zosyn/vancomycin for 7 day course now day 2, or per GI recommendations.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Continue home inhalers
 HYPERTENSION, BENIGN
   Resume home antihypertensives in afternoon if BP stable
 CANCER (MALIGNANT NEOPLASM), BREAST
   Continue home arimidex
 Hyperlipidemia
   Resume statin once LFTs normalize
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Regular insulin sliding scale, Comments: glucose
   recently 160-170's
   Lines:
   Arterial Line - [**2143-3-1**] 08:52 AM   -- discontinue in afternoon if BP
   stable
   Multi Lumen - [**2143-3-1**] 06:00 PM  -- discontinue in afternoon if BP
   stable
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: n/a now extubated
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU call out in AM if stable today

2143-03-02 08:29:00 Physician Attending Progress Note
Chief Complaint: 78 yr Female COPD RUQ pain, cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ERCP plastic stent placed. On vent post procedure. Hypotensive, on Levo
   24 Hour Events:
 ARTERIAL LINE - START [**2143-3-1**] 08:52 AM
 MULTI LUMEN - START [**2143-3-1**] 10:09 AM
 MULTI LUMEN - START [**2143-3-1**] 06:00 PM
 MULTI LUMEN - STOP [**2143-3-2**] 04:00 AM - R Subclavian
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2143-3-1**] 10:00 PM
   Piperacillin - [**2143-3-2**] 07:25 AM
   Ciprofloxacin - [**2143-3-2**] 08:05 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   hep sq, famotidine, insulin ss, arimedex, singulair, albuterol nebs,
   ipratropium, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-2**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 80 (65 - 103) bpm
   BP: 108/50(70) {84/40(58) - 150/68(94)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 250 (5 - 303)mmHg
   Total In:
                                                                  7,903 mL
                                                                  1,733 mL
   PO:
   TF:
   IVF:
                                                                  7,903 mL
                                                                  1,733 mL
   Blood products:
   Total out:
                                                                    537 mL
                                                                    332 mL
   Urine:
                                                                    537 mL
                                                                    332 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,366 mL
                                                                  1,401 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 12
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.38/42/85.[**Numeric Identifier 128**]/28/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   341 K/uL
   165 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   137 mEq/L
   32.8 %
   36.7 K/uL
        [image002.jpg]
                             [**2143-3-1**]  05:16 AM
                             [**2143-3-1**]  05:45 AM
                             [**2143-3-1**]  06:12 AM
                             [**2143-3-1**]  09:27 AM
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
   WBC
   29.1
   36.7
   Hct
   36.7
   32.8
   Plt
   367
   341
   Cr
   0.9
   0.6
   0.7
   TropT
   <0.01
   TCO2
   35
   35
   33
   35
   32
   26
   Glucose
   291
   156
   165
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:202/6/<0.01, ALT / AST:455/279, Alk Phos / T Bili:324/3.7,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.9 %, Mono:2.3 %, Eos:0.0
   %, Lactic Acid:2.1 mmol/L, LDH:467 IU/L, Ca++:7.6 mg/dL, Mg++:2.4
   mg/dL, PO4:2.8 mg/dL
   Microbiology: No new data
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
       hypotension resolved, urine output down but improving
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
        Good RSBI may be able to extubate this AM
 CHOLANGITIS
       On broad spectrum AB, nothing growing, stop Cipro
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
       On Vanc/Zosyn, CXR improved
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
       Good RSBI, no wheezes, continued meds
 HYPERTENSION, BENIGN
 CANCER (MALIGNANT NEOPLASM), BREAST
   on arimidex
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2143-3-1**] 08:52 AM
   Multi Lumen - [**2143-3-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2143-03-03 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2143-3-2**] 02:32 PM
   Extubated successfully
   Had brief episode of respiratory distress which responded to nebs and
   supplemental O2
   SUBJECTIVE
   Breathing feels at baseline, no abdominal pain
   +Nausea, having difficulty sleeping.
   Back pain [**2-9**] bed
   Not thirsty
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-3-2**] 08:05 AM
   Vancomycin - [**2143-3-2**] 08:00 PM
   Piperacillin - [**2143-3-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-3-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Patient is NOT on atenolol at home.  Just HCTZ and verapamil for BP
   control.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-3**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 95 (78 - 108) bpm
   BP: 147/83(97) {109/54(71) - 164/89(104)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 4 (0 - 11)mmHg
   Total In:
                                                                  2,359 mL
                                                                    160 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,239 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,194 mL
                                                                    740 mL
   Urine:
                                                                  1,194 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 100%
   RSBI: 32
   SpO2: 95%
   ABG: 7.42/49/49/32/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 49
   Physical Examination
   Half-sitting, leaning over edge of bed.
   Alert and oriented.
   S1, S2, heart sounds very distant, borderline tachycardic
   Tachypneic. Lungs with diminished BS b/l.
   Abd soft, NT, ND.
   Ext:  No edema, warm
   Labs / Radiology
   300 K/uL
   10.8 g/dL
   123 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   14 mg/dL
   100 mEq/L
   139 mEq/L
   32.1 %
   26.9 K/uL
         [image002.jpg]
                             [**2143-3-1**]  06:12 AM
                             [**2143-3-1**]  09:27 AM
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
                             [**2143-3-2**]  09:05 AM
                             [**2143-3-2**]  08:45 PM
                             [**2143-3-3**]  03:54 AM
   WBC
   36.7
   26.9
   Hct
   32.8
   32.1
   Plt
   341
   300
   Cr
   0.6
   0.7
   0.6
   TCO2
   35
   33
   35
   32
   26
   30
   33
   Glucose
   156
   165
   123
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:202/6/<0.01, ALT / AST:371/169, Alk Phos / T Bili:279/1.9,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.9 %, Mono:2.3 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:226 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   BCx [**3-1**] NGTD
   Sputum [**3-1**] gram stain with >25 polys, no organisms. Rare growth
   oropharyngeal flora, final pending
   Ucx negative
   Urine legionella negative
   CXR [**3-2**]:
   Lateral aspect of the left lower chest is excluded from the study.  Tip
    of the
   right subclavian line projects over the low SVC.  Marked azygos dilatat
   ion,
   progressed since [**3-1**], suggests volume overload or other cause o
   f
   elevated central venous pressure.  Aside from mild atelectasis at the r
   ight
   base, the imaged portions of the lungs are clear.  Heart size top [**Doctor First Name **]
   l.
   Endotracheal tube in standard placement.
   Assessment and Plan
   74yo woman admitted with biliary obstruction, s/p ERCP.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Patient had hypotension after her ERCP, but was quickly weaned off of
   levophed.  She has not been having fevers and her BP and urine output
   have been good.
   -          sepsis physiology resolved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Patient was intubated for ERCP given poor underlying pulmonary function
   in setting of COPD with atelectasis.
   -          s/p extubation [**3-2**]
   -          currently at baseline with good O2 sat
s on 3L NC
   -          continue home inhalers
 CHOLANGITIS
   -          s/p plastic stent at ERCP [**3-1**]; will need removal in 6 weeks
   -          abdominal exam benign with improving LFTs
   -          cultures negative to date, but will continue zosyn and
   vancomycin (day 3 of 7) to cover possible gram negatives and
   enterococcus
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          home inhalers as above
 HYPERTENSION, BENIGN
   As hypotension resolves, patient
s underlying hypertension being
   unmasked.
   -          start home antihypertensives sequentially
   -          not on atenolol at home
   -          start HCTZ first and monitor BP
 CANCER (MALIGNANT NEOPLASM), BREAST
   on arimidex
   # Dyslipidemia:
   -          currently holding statin in setting of elevated LFTs
   ICU Care
   Nutrition: advance diet as tolerated; zofran for nausea
   Glycemic Control:  BS well controlled since noon yesterday on SSI;
   monitor sugars as she starts to eat
   Lines:
   Multi Lumen - [**2143-3-1**] 06:00 PM
will attempt to get PIVs so that
   central line can be dc
   Prophylaxis:
   DVT: subQ heparin
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition:transfer to floor

2143-03-03 12:26:00 Physician Attending Progress Note
Chief Complaint: 74 Yr Woman with Cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated successfully
   Feeling at baseline
   No abdom pain
   24 Hour Events:
 ARTERIAL LINE - STOP [**2143-3-2**] 02:32 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-3-2**] 08:05 AM
   Vancomycin - [**2143-3-3**] 08:00 AM
   Piperacillin - [**2143-3-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-3-3**] 12:00 AM
   Other medications:
   famotidine, RISS, arimedex, singulair, advair [**Hospital1 **], albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-3**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 90 (79 - 108) bpm
   BP: 116/60(74) {109/54(71) - 164/89(104)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 4 (0 - 4)mmHg
   Total In:
                                                                  2,359 mL
                                                                    660 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,239 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  1,194 mL
                                                                  1,000 mL
   Urine:
                                                                  1,194 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.42/49/49/32/5
   PaO2 / FiO2: 49
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   300 K/uL
   123 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   14 mg/dL
   100 mEq/L
   139 mEq/L
   32.1 %
   26.9 K/uL
        [image002.jpg]
                             [**2143-3-1**]  06:12 AM
                             [**2143-3-1**]  09:27 AM
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
                             [**2143-3-2**]  09:05 AM
                             [**2143-3-2**]  08:45 PM
                             [**2143-3-3**]  03:54 AM
   WBC
   36.7
   26.9
   Hct
   32.8
   32.1
   Plt
   341
   300
   Cr
   0.6
   0.7
   0.6
   TCO2
   35
   33
   35
   32
   26
   30
   33
   Glucose
   156
   165
   123
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:202/6/<0.01, ALT / AST:371/169, Alk Phos / T Bili:279/1.9,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.9 %, Mono:2.3 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:226 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR - Poor quality film
   ? atelectasis R Base
   Microbiology: Urine Culture - Neg
   BC's neg to date
   Sputum - final pending
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   Resolved on Cipro, Vanco, Pip
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Resolved, extubated breathing comfortably
 CHOLANGITIS
   Resolved on AB
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Resolving, sputum cultures pending
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Same meds
 HYPERTENSION, BENIGN
   Restart opt meds - atenolol then HCTZ, CA Channel Blocker
 CANCER (MALIGNANT NEOPLASM), BREAST
   on arimidex
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: Full diet
   Lines:
   Multi Lumen - [**2143-3-1**] 06:00 PM
   Comments: Remove IJ if we get peripheral IV's
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2143-03-04 20:34:00 Physician Attending Progress Note
Chief Complaint: respiratory distress and hypoxia
   74 yo F with h/o breast ca s/p mastectomy and xrt, htn, high chol and
   COPD admitted initially with cholangitis and respiratory failure from
   sepsis and copd flare/RLL pna treated with BiPAP and elective
   intubation for [**Hospital 1169**] transferred to floor from ICU yesterday and
   returns to ICU today for worsening respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2143-3-3**] 03:14 PM
   overnight had increasing O2 requirement from 3 to 6 L NC, triggered on
   floor today for hypoxia and transferred back to ICU
   ECG showed RBBB with no sig changes from prior, ST
   History obtained from [**Hospital 85**] Medical records, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-3-2**] 08:05 AM
   Vancomycin - [**2143-3-3**] 08:00 AM
   Piperacillin - [**2143-3-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2143-3-4**] 08:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 102 (102 - 110) bpm
   BP: 138/83(97) {131/63(78) - 154/87(104)} mmHg
   RR: 22 (19 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 86.7 kg
   Height: 65 Inch
                  Total In:
                                                                    670 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                  1,200 mL
   Urine:
                                                                  1,000 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -330 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   SpO2: 96%
   ABG: on 6L  7.38/65/78
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   diffuse expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.8 g/dL
   300 K/uL
   123 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.4 mEq/L
   14 mg/dL
   100 mEq/L
   139 mEq/L
   32.1 %
   26.9 K/uL
        [image002.jpg]
                             [**2143-3-1**]  06:12 AM
                             [**2143-3-1**]  09:27 AM
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
                             [**2143-3-2**]  09:05 AM
                             [**2143-3-2**]  08:45 PM
                             [**2143-3-3**]  03:54 AM
   WBC
   36.7
   26.9
   Hct
   32.8
   32.1
   Plt
   341
   300
   Cr
   0.6
   0.7
   0.6
   TCO2
   35
   33
   35
   32
   26
   30
   33
   Glucose
   156
   165
   123
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:202/6/<0.01, ALT / AST:371/169, Alk Phos / T Bili:279/1.9,
   Differential-Neuts:92.8 %, Band:0.0 %, Lymph:4.9 %, Mono:2.3 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:226 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Imaging: some clearing of R opacity--likely effusion, blunting of R
   CPangle,/RLL infiltrate, full R hilum
   Assessment and Plan
   74 yo F with h/o breast ca s/p mastectomy and xrt, htn, high chol, COPD
   and chronic CO2 retention admitted initially with cholangitis and
   respiratory failure from sepsis and copd flare/RLL pna treated with
   BiPAP and elective intubation for [**Hospital 1169**] transferred to floor from ICU
   yesterday and returns to ICU today for worsening respiratory
   distress/hypoxemia--improving
   #Hypoxemia/respiratory distress
        DDX includes pna/aspiration  copd flare, verses flash pulm edema,
   PE on ddx
        Responded to nebs and steroids and now returning towards prior
   baseline with improved air movement and decreased wheeze with COPD
   flare most likely etiology
        Continue steroids, nebs, advair, antibx
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
solumedrol 80 qd with taper, continuous
   nebs
change to q 4 hrs, advair
   #chronic CO2 retention
obesity hypoventilation/copd
normally
   compensated by pH, decrease FIO2 now that wheeze and tachypnea
   improved, BIPAP if tires
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
suspect an aspiration
   pna in setting of emesis at time of cholangitis presentation, complete
   antibx course with vanco/zosyn
   # R Hilar fullness
seen on CXR
suspect component of pulm arterial
   enlargement/?PA HTN from chronic copd  but lymphadenopathy on ddx, eval
   by chest ct
 CHOLANGITIS
resolved, completing 14 days of vanco zosyn (started
   [**3-2**]), stent in place
will return in 6 wks for stent removal/ercp
 HYPERTENSION, BENIGN
continue home meds, stable hemodynamically
 CANCER (MALIGNANT NEOPLASM), BREAST
      Continue on arimidex
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2143-3-1**] 06:00 PM
   Prophylaxis:
   DVT:   sc heparin
   Stress ulcer:  ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : remains in ICU pending improvement
   Total time spent:  35

2143-03-05 07:40:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - received continuous nebs
   - CE neg x2
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-3-2**] 08:05 AM
   Piperacillin - [**2143-3-3**] 08:00 AM
   Vancomycin - [**2143-3-4**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia
   Respiratory: No(t) Cough, Tachypnea, No(t) Wheeze, shortness of breath,
   increased work of breathing
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Flowsheet Data as of  [**2143-3-5**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 101 (88 - 110) bpm
   BP: 140/76(93) {116/53(69) - 154/87(104)} mmHg
   RR: 22 (11 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 86.7 kg
   Height: 65 Inch
             Total In:
                                                                    700 mL
                                                                    334 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    600 mL
   Urine:
                                                                  1,700 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///42/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   10.6 g/dL
   163 mg/dL
   0.5 mg/dL
   42 mEq/L
   3.6 mEq/L
   8 mg/dL
   93 mEq/L
   138 mEq/L
   31.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
                             [**2143-3-2**]  09:05 AM
                             [**2143-3-2**]  08:45 PM
                             [**2143-3-3**]  03:54 AM
                             [**2143-3-4**]  08:41 PM
                             [**2143-3-5**]  04:57 AM
   WBC
   36.7
   26.9
   12.5
   14.2
   Hct
   32.8
   32.1
   31.0
   31.7
   Plt
   [**Telephone/Fax (3) 1175**]06
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   TCO2
   35
   32
   26
   30
   33
   Glucose
   156
   165
   123
   139
   163
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:181/43, Alk Phos / T Bili:202/1.4,
   Amylase / Lipase:76/290, Differential-Neuts:92.8 %, Band:0.0 %,
   Lymph:4.9 %, Mono:2.3 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.2
   g/dL, LDH:226 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 Pt with inc WOB,
   tachypnea, and hypoxia on floor.  Etiology unclear but symptoms have
   resolved with continuous nebs
   -          nebs now q4h scheduled
   -          continue vanc and zosyn for now for pneumonia
   -          cont advair
   -          switch methylprednisone to 60mg prednisone daily
   -          chest CT today for further eval of right hilar nodularity
 CHOLANGITIS
 s/p ERCP with stent placement and removal of
   gallstones.  LFTs trending down, Blood cx negative to date
   -          continue 14 day course of vanc and zosyn for biliary sepsis
   -          f/u ERCP in 6 weeks for evaluation
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 Unclear whether
   patient had a CAP or aspitation PNA following recent episode of nausea
   and vomiting
   -          sputum cx, positive for yeast only, will repeat sputum cx
   today per ID
   -          cont vanc and zosyn for biliary sepsis and concomitant PNA
   coverage
   -          chest CT today for further eval of right hilar nodularity
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 event likely could be a COPD flair in setting
   of recent PNA.  R.o ACS with neg CE and unchanged EKG as alternative
   cause of flair
   -          albuterol nebs q4 scheduled, atrovent q6h
   -          cont advair
   -          CE negx2
   -          Hold off on spiriva for now while on atrovent nebs
 HYPERTENSION, BENIGN
   - cont home HCTZ and verapamil
 CANCER (MALIGNANT NEOPLASM), BREAST
 s/p L mastectomy and rads, on
   arimidex
   -          cont Arimidex
   # Access
 right subclavian currently, difficult to access with h/o
   rads,  question of kink in line on CXR [**3-4**], will need access for 14
   days antibiotic course
   - order PICC
   ICU Care
   Nutrition:
   Comments: Regular Cardiac Diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-3-1**] 06:00 PM, will need PICC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2143-03-05 09:55:00 Physician Attending Progress Note
Chief Complaint: hypoxia, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo F with breast ca, htn, high chol, copd on home o2 admitted with
   cholangitis, respiratory failure and copd/pna transferred back to icu
   with respiratory distress from COPD exacerbation
   24 Hour Events:--improving clinically
   cardiac ennzymes neg X 2
   nebs Q 4 hrs
   Currently not SOB
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-3-3**] 08:00 AM
   Vancomycin - [**2143-3-4**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Wheeze--improving
   Flowsheet Data as of  [**2143-3-5**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 92 (88 - 110) bpm
   BP: 124/58(74) {116/53(69) - 154/87(104)} mmHg
   RR: 16 (11 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm), ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 86.7 kg
   Height: 65 Inch
             Total In:
                                                                    700 mL
                                                                    356 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    600 mL
   Urine:
                                                                  1,700 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///42/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: present, (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse:present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: clear,
   improving air movement
   Skin:  No [**Last Name (un) 1178**]/janudice
   Neurologic: Attentive, No(t) Follows simple commands, , Oriented (to):
   x3, Movement: all 4
   Labs / Radiology no new cxr
   10.6 g/dL
   306 K/uL
   163 mg/dL
   0.5 mg/dL
   42 mEq/L
   3.6 mEq/L
   8 mg/dL
   93 mEq/L
   138 mEq/L
   31.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2143-3-1**]  02:32 PM
                             [**2143-3-2**]  01:57 AM
                             [**2143-3-2**]  02:11 AM
                             [**2143-3-2**]  04:48 AM
                             [**2143-3-2**]  06:40 AM
                             [**2143-3-2**]  09:05 AM
                             [**2143-3-2**]  08:45 PM
                             [**2143-3-3**]  03:54 AM
                             [**2143-3-4**]  08:41 PM
                             [**2143-3-5**]  04:57 AM
   WBC
   36.7
   26.9
   12.5
   14.2
   Hct
   32.8
   32.1
   31.0
   31.7
   Plt
   [**Telephone/Fax (3) 1175**]06
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   TCO2
   35
   32
   26
   30
   33
   Glucose
   156
   165
   123
   139
   163
   Other labs: PT / PTT / INR:13.1/25.1/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:181/43, Alk Phos / T Bili:202/1.4,
   Amylase / Lipase:76/290, Differential-Neuts:92.8 %, Band:0.0 %,
   Lymph:4.9 %, Mono:2.3 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.2
   g/dL, LDH:226 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: Poor penetration.
   Kink in CVL.
   R>L loss of costophrenic angles
   Microbiology: No new data
   Assessment and Plan
   74 yo F with breast ca, htn, high chol, copd on home o2 admitted with
   cholangitis, respiratory failure and copd/pna transferred back to icu
   with respiratory distress from COPD exacerbation
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): COPD flare, now improving
   with steroids, nebs
   - Continue Prednisone change to 60 mg/day, nebs albuterol and atrovent,
   singulair, Advair.
   - Taper steroids slowly. Would restart spiriva after  no longer
   requiring frequent nebs
 CHOLANGITIS: Obstructive cholangitis, s/p ERCP and stenting.
   Continued improvement in LFTs.
   - Continue Zosyn, Vanco to complete 14 days, stent removal per IR in 6
   wks
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): R>L loss of
   costophrenic angles and possible nodularity on CXR
   - Zosyn, Vanco
   - Will need follow-up CT given R hilar fullness on cxr
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   - As above.
   - Also takes Spririva at home, which should be restarted once neb
   treatments can be sufficiently spaced out. Atrovent should be d/c'd
   when Spiriva is restarted.
 HYPERTENSION, BENIGN
   - Well controlled on HCTZ and verapamil
 CANCER (MALIGNANT NEOPLASM), BREAST
   - on Arimidex
   Remainder of issues reviewed with housestaff and I agree with their
   plans as outlined in their daily progress note.
   ICU Care
   Nutrition:
   Po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2143-3-1**] 06:00 PM
   Comments: Difficult peripheral access. Will need prolonged IV [**Last Name (LF) **], [**First Name3 (LF) 178**]
   place PICC.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 min